US08097617B2
C-[6-(2,4-Dichloro-phenyl)-imidazo[1,2-a]pyridin-7-yl]-methylamine
A solution of [6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-7-ylmethyl]-carbamic acid tert-butyl ester (30 mg, 0.07 mmol) in DCM (2 mL) and TFA (1 mL) was stirred at RT for 30 min, then concentrated to dryness. The remaining residue was purified by reverse phase prep-HPLC (Waters system) to give the title compound (2TFA salt, 19 mg, 0.037 mmol, 52%) as a white solid. MS: 293 [M+1]+; HPLC: AtRet=0.84.

reactant | [6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-7-ylmethyl]-carbamic acid tert-butyl ester | 0.07 mmol, 30 mg | C(C)(C)(C)OC(NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C=CN2)=O | C19H19Cl2N3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | C-[6-(2,4-Dichloro-phenyl)-imidazo[1,2-a]pyridin-7-yl]-methylamine | 0.037 mmol, 19 mg, 52% | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C=CN2)CN | C14H11Cl2N3
